US05250546
(1RS,2RS)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol dihydrochloride
A mixture of 2-bromo-5-methyl-1-phenylhexan-1-ol [prepared from 2-bromo-5-methyl-1-phenylhexan-1-one by usual NaBH4 -reduction] (1.0 g, 3.69 mmol) and 1-(3-aminopropyl)piperidine (1.05 g, 7.38 mmol) was heated at 110° C. for 4 hours in a nitrogen atmosphere. After being cooled, the reaction mixture was dissolved in lN-HCl (50 ml) and the solution was washed with ether. The aqueous layer was basified with lN-NaOH and then extracted twice with ether. The combined ethereal extract was washed three times with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The residue was purified by preparative TLC to give pale yellow oily matter. To a solution of the matter in ethanol was added in excess 18% HCl in EtOH and the resulting mixture was evaporated under reduced pressure. The residue was dissolved with heating in ethanol (15 ml) and to the mixture was then added 10 ml of acetone. The mixture was stirred at room temperature. Precipitated crystals were collected by filtration to obtain 0.52 g of the title compound (yield: 35%).

reactant | 2-bromo-5-methyl-1-phenylhexan-1-ol | 3.69 mmol, 1.0 g | BrC(C(O)C1=CC=CC=C1)CCC(C)C | C13H19BrO
reactant | 1-(3-aminopropyl)piperidine | 7.38 mmol, 1.05 g | NCCCN1CCCCC1 | C8H18N2
reactant | HCl | 50 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | EtOH | CCO | C2H6O
product | (1RS,2RS)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol dihydrochloride | 0.52 g, yield: 35% | Cl.Cl.CC(CCC(C(O)C1=CC=CC=C1)NCCCN1CCCCC1)C | InChI=1S/C21H36N2O.2ClH/c1-18(2)12-13-20(21(24)19-10-5-3-6-11-19)22-14-9-17-23-15-7-4-8-16-23;;/h3,5-6,10-11,18,20-22,24H,4,7-9,12-17H2,1-2H3;2*1H
